US05030736
6-Benzoyloxy-5,6-dihydro-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran
A mixture of 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran (1.0 g, 3.74 mmol), benzoic anhydride (10 g) and 70% perchloric acid (10 drops) were heated to 80° C. for 2 h. The mixture was poured into ice water and extracted with dichloromethane and purified by flash chromatography using 1% methanol in dichloromethane as the eluant. The product was further purified by medium pressure chromatography using the same eluant, to give the product, 0.893 g (64%), as a grey solid: mp 130°-132° C.; IR (KBr): 2981, 1721, 1695 and 1561 cm-1 ; MS: m/z 372 (MH+); 1H NMR (CDCl3): δ1.43(s, 3H), 1.49(s, 3H), 1.96(m, 2H), 2.23(m, 1H), 2.33(m, 1H), 3.31(m, 1H), 3.47(m, 1H), 5.44(d, J=9.3 Hz, 1H), 5.64(d, J=9.3 Hz, 1H), 6.62(d, J=5.3 Hz, 1H), 7.15(d, J=5.3 Hz, 1H), 7.46(t, J=7.4 Hz, 2H), 7.59(t, J=7.4 Hz, 1H) and 8.03(d, J=7.4 Hz, 2H).

reactant | 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | 3.74 mmol, 1.0 g | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C13H17NO3S
reactant | benzoic anhydride | 10 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | KBr | [K+].[Br-]
catalyst | perchloric acid | 10 drops | Cl(=O)(=O)(=O)O | ClHO4
product | 6-Benzoyloxy-5,6-dihydro-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | C(C1=CC=CC=C1)(=O)OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C20H21NO4S
